US07081472B2
Preparation of indole-3-carboxylic acid ethyl ester
The title compound is prepared starting from indole-3-carboxylic acid (commercially available from Aldrich) by esterification with ethanol using standard methods of organic synthesis (e.g. J. March, Advanced Organic Chemistry, Reactions, Mechanisms and Structure (1992, 4th edition) 393–394 (Wiley interscience, New York).

reactant | indole-3-carboxylic acid | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | ethanol | C(C)O | C2H6O
product | indole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CNC2=CC=CC=C12 | C11H11NO2
